US05354501
0.4 g (0.88 mM) of 2-[4-(5-decylpyrimidine-2-yl)benzyl]octanoic acid and 1.3 g of polyphosphoric acid were placed in a flask, followed by stirring for 6 hours at 130° C. After the reaction, 10 ml of water was added to the reaction mixture, followed by extraction with toluene. The extract was dried, followed by distilling-off of the solvent to obtain a crude product. The crude product was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1) and recrystallized from a mixture solvent (toluene/methanol) to obtain 0.25 g (0.57 mM) of 2-hexyl-6-(5-decylpyrimidine-2-yl)-1-indanone (Yield: 65%, m.p.=87° C.).

reactant | 2-[4-(5-decylpyrimidine-2-yl)benzyl]octanoic acid | 0.88 mM, 0.4 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(CC(C(=O)O)CCCCCC)C=C1 | C29H44N2O2
solvent | water | 10 ml | O | H2O
product | 2-hexyl-6-(5-decylpyrimidine-2-yl)-1-indanone | 0.57 mM, 0.25 g, Yield: 65% | C(CCCCC)C1C(C2=CC(=CC=C2C1)C1=NC=C(C=N1)CCCCCCCCCC)=O | C29H42N2O
